US04826866
3-Amino-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride[1:1]
A stirred mixture of 9.1 g (0.1 mole) of 3-thiosemicarbazide and 1 mL of concentrated hydrochloride acid in 150 mL of absolute ethanol was cooled to 0° C. in an ice bath and 16.5 g (0.1 mole) of ethyl 2-chloroacetoacetate was added dropwise. The thiosemicarbazide dissolved as the reaction mixture was allowed to slowly come to ambient temperature, it then became yellow and a new precipitate formed. The reaction mixture was heated at reflux for 3 hr. All the material had not dissolved so the reaction mixture was diluted with water and made acidic with 3N hydrochloric acid to dissolve all the solids but sulfur. After filtering, the filtrate was concentrated in vacuo leaving an orange-red oil which slowly crystallized when acetone was added to give 11.5 g of orange powder, mp 186°-188° C., with decomposition.

reactant | 3-thiosemicarbazide | 0.1 mole, 9.1 g | NNC(=S)N | CH5N3S
reactant | hydrochloride | 1 mL | Cl | ClH
reactant | ethyl 2-chloroacetoacetate | 0.1 mole, 16.5 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | sulfur | [S] | S
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-Amino-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 11.5 g | Cl.NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C7H11N3O2.ClH/c1-3-12-7(11)5-4(2)9-10-6(5)8;/h3H2,1-2H3,(H3,8,9,10);1H
